US08486967B2
c) [1-(2,4-Dichloro-phenyl)-5-methyl-1H-[1,2,4]triazol-3-yl]-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine
Prepared in analogy to example 1 step b) starting from [1-(2,4-dichloro-phenyl)-5-methyl-1H-[1,2,4]triazol-3-yl]-piperidin-4-yl-amine hydrochloride and 5-chloro-3-methyl-[1,2,4]thiadiazole (example 1 step a)). The title compound was obtained as slightly yellow solid (yield=10%).

reactant | [1-(2,4-dichloro-phenyl)-5-methyl-1H-[1,2,4]triazol-3-yl]-piperidin-4-yl-amine hydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)N1N=C(N=C1C)NC1CCNCC1
reactant | 5-chloro-3-methyl-[1,2,4]thiadiazole | ClC1=NC(=NS1)C | C3H3ClN2S
product | [1-(2,4-Dichloro-phenyl)-5-methyl-1H-[1,2,4]triazol-3-yl]-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine | ClC1=C(C=CC(=C1)Cl)N1N=C(N=C1C)NC1CCN(CC1)C1=NC(=NS1)C | C17H19Cl2N7S
